US07906546B2
130 mg (0.29 mmol) of (RS,SR)-2-benzenesulfonyl-2-(6-chloro-9-methoxymethyl-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-propan-1-ol in 5 mL of THF at 0° C. were treated with 14 mg (0.32 mmol, 1.1 eq) of NaH (55% in oil) portionwise within 30 min. 30 min. 30 μL (0.43 mmol, 1.5 eq) of MeI were added and the reaction mixture was stirred an additional 2 hours, partitioned between EtOAc and a saturated aqueous solution of NH4Cl. The organic phase was washed with brine, dried over Na2SO4, and evaporated. Column chromatography with heptane/EtOAc 1:2 gave 96 mg (72%) of (RS,SR)-2-(1-benzenesulfonyl-2-methoxy-1-methyl-ethyl)-6-chloro-9-methoxymethyl-2,3,4,9-tetrahydro-1H-carbazole as a white solid, MS: 479 (MNH4+).

reactant | (RS,SR)-2-benzenesulfonyl-2-(6-chloro-9-methoxymethyl-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-propan-1-ol | 0.29 mmol, 130 mg | C1(=CC=CC=C1)S(=O)(=O)C(CO)(C)C1CC=2N(C3=CC=C(C=C3C2CC1)Cl)COC | C23H26ClNO4S
reactant | NaH | 0.32 mmol, 14 mg, 1.1 eq | [H-].[Na+]
reactant | MeI | 0.43 mmol, 30 μL, 1.5 eq | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (RS,SR)-2-(1-benzenesulfonyl-2-methoxy-1-methyl-ethyl)-6-chloro-9-methoxymethyl-2,3,4,9-tetrahydro-1H-carbazole | 96 mg, 72% | C1(=CC=CC=C1)S(=O)(=O)C(COC)(C)C1CC=2N(C3=CC=C(C=C3C2CC1)Cl)COC | C24H28ClNO4S
